US08492582B2
Water (3 mL), sodium carbonate (0.76 g), 2-bromopyridine (0.42 mL), and tetrakis(triphenylphosphine)palladium(0) (0.17 g) were added to an ethylene glycol dimethyl ether (10 mL) solution of tert-butyl 2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (1.0 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 30 minutes. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 90-85% hexane/ethyl acetate] to obtain 0.32 g of tert-butyl 2-nitro-4-(pyridin-2-yl)benzoate as a light yellow oily substance.

reactant | sodium carbonate | 0.76 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromopyridine | 0.42 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | tert-butyl 2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.0 g | [N+](=O)([O-])C1=C(C(=O)OC(C)(C)C)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H24BNO6
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 10 mL | COCCOC | C4H10O2
solvent | Water | 3 mL | O | H2O
product | tert-butyl 2-nitro-4-(pyridin-2-yl)benzoate | 0.32 g | [N+](=O)([O-])C1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=NC=CC=C1 | C16H16N2O4
